US09303045B2
Step 2: 1-(thiazol-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid
Potassium hydroxide (38.5 mg, 0.687 mmol) was added to a solution of methyl 1-(thiazol-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (35.6 mg, 0.137 mmol) in MeOH (343 μl) and water (343 μl) at RT. The mixture was heated at 100° C. for 2 h. After cooling to RT, the mixture was acidified with 2 N HCl and then concentrated under reduced pressure. The crude mixture was used without further purification.

reactant | Potassium hydroxide | 0.687 mmol, 38.5 mg | [OH-].[K+]
reactant | methyl 1-(thiazol-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 0.137 mmol, 35.6 mg | S1C(=NC=C1)N1C=C(C=2C1=NC=CC2)C(=O)OC | C12H9N3O2S
reactant | HCl | 2 N | Cl | ClH
solvent | MeOH | 343 μl | CO | CH4O
solvent | water | 343 μl | O | H2O
product | 1-(thiazol-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | S1C(=NC=C1)N1C=C(C=2C1=NC=CC2)C(=O)O | C11H7N3O2S
